US09376454B2
Step 2. Synthesis of 5-Carboxymethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
A mixture of di-prop-2-ynyl-carbamic acid tert-butyl ester (4.78 g, 24.7 mmol) and ethanol (120 mL) was prepared under argon and cooled to 0° C. for 15 min. 3-Butynoic acid (3.64 g, 43.3 mmol) and tris(triphenylphosphine)rhodium (I) chloride (1.14 g, 1.23 mmol) were added and reaction was gradually warmed to room temperature over 1.3 hr. The reaction was then heated to 45° C. for 17 hr. The reaction was cooled to room temperature and concentrated in vacuo. The residue was diluted with 1N NaOH and extracted with diethyl ether (3×). The aqueous layer was acidified to pH˜1 with 1N HCl and extracted with EtOAc (3×). The combined EtOAc layers were dried over Na2SO4, filtered, and concentrated. The crude product was purified by flash chromatography on silica gel (EtOAc:Hexane, 5-100%). ESI-MS m/z 278 (MH)+.

reactant | di-prop-2-ynyl-carbamic acid tert-butyl ester | 24.7 mmol, 4.78 g | C(C)(C)(C)OC(N(CC#C)CC#C)=O | C11H15NO2
reactant | 3-Butynoic acid | 43.3 mmol, 3.64 g | C(CC#C)(=O)O | C4H4O2
catalyst | tris(triphenylphosphine)rhodium (I) chloride | 1.23 mmol, 1.14 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 5-Carboxymethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)CC(=O)O | C15H19NO4
